US08633175B2
(3-{3′-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-4-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate
To a solution of [3-(3′-formyl-4-biphenylyl)-1H-1,2,4-triazol-1-yl]methyl 2,2-dimethylpropanoate (0.081 g, 0.22 mmol; I-X-17) and 2-aminoindane (0.045 mL, 0.35 mmol) in 1:1 THF/MeOH (2 mL) was added acetic acid (0.12 mL) and MP-BH3CN (ca. 0.67 mmol, Note 1). The mixture was stirred at room temperature overnight, resin was remove by filtration (THF wash) and the filtrate was concentrated in vacuo. The residue was partitioned between EtOAc/5% Na2CO3, layers were separated and the aqueous layer was extracted with EtOAc. Combined organics were washed (water, brine), dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (MeOH/CH2Cl2), affording the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 1.20 (s, 9H), 2.84 (dd, J=15.6, 6.4 Hz, 2H), 3.20 (dd, J=15.6, 7.1 Hz, 2H), 3.68-3.75 (m, 1H), 3.93 (s, 2H), 6.09 (s, 2H), 7.08-7.23 (m, 4H), 7.31-7.38 (m, 1H), 7.41 (t, J=7.6 Hz, 1H), 7.53 (d, J=7.6 Hz, 1H), 7.63 (s, 1H), 7.69 (d, J=8.3 Hz, 2H), 8.19 (d, J=8.3 Hz, 2H), 8.37 (s, 1H).

reactant | [3-(3′-formyl-4-biphenylyl)-1H-1,2,4-triazol-1-yl]methyl 2,2-dimethylpropanoate | 0.22 mmol, 0.081 g | CC(C(=O)OCN1N=C(N=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C=O)(C)C | C21H21N3O3
reactant | 2-aminoindane | 0.35 mmol, 0.045 mL | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | THF MeOH | 2 mL | C1CCOC1.CO
solvent | acetic acid | 0.12 mL | C(C)(=O)O | C2H4O2
product | (3-{3′-[(2,3-dihydro-1H-inden-2-ylamino)methyl]-4-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate | CC(C(=O)OCN1N=C(N=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC1CC2=CC=CC=C2C1)(C)C | C30H32N4O2
